US08420690B2
c) 2-amino-3-methyl-3-phenyl-1-butanol
To a solution of methyl beta,beta-dimethylphenylalaninate (1.4 g, 6.76 mmol) in THF (20 mL) at 0° C. was added dropwise a solution of lithium aluminum hydride (384 mg, 10.1 mmol) in THF (10 mL). After warming to 25° C. over 12 h, the solution was quenched by sequential addition of H2O (659 uL), 6N NaOH (500 uL) and H2O (2.4 mL). The resulting precipitate was filtered and the pad washed thoroughly with DCM. The filtrate was concentrated and purified via column chromatography (silica, 2-5% MeOH in DCM (1% NH4OH)) yielding the title compound (770 mg, 64%): LCMS (ES) m/e 179 (M+H)+.

reactant | methyl beta,beta-dimethylphenylalaninate | 6.76 mmol, 1.4 g | CC([C@H](N)C(=O)OC)(C1=CC=CC=C1)C | C12H17NO2
reactant | lithium aluminum hydride | 10.1 mmol, 384 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 2-amino-3-methyl-3-phenyl-1-butanol | 770 mg, 64% | NC(CO)C(C)(C1=CC=CC=C1)C | C11H17NO
